reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C-:2](=[O+:3][H:12])[C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14].[C:1]([H:8])([H:9])([H:10])[H:11],86.96365292415159
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]([H:12])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6]([H:13])[H:16],79.2651512096916
[O:1](/[C:2](=[C:3](\[N:5]=[C:4]([H:10])[H:11])[H:9])[H:8])[C:6](=[O:7])[H:12]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],57.32217064206924
[N:1]([C@@:2]1([H:7])[O:3][N:4]1[H:8])([H:5])[H:6]>>[N:1]([C:2](=[O:3])[N:4]([H:7])[H:8])([H:5])[H:6],58.8840891654244
[O:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C@:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5][C:6]1([H:8])[H:14])[H:7],72.1434523996563
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]=[C:4]([O:5][H:8])[C:6]([H:10])([H:11])[H:12])([H:7])[H:9],58.52380021049071
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[O:3][C:4](=[N:5]/[H:13])/[C:6]1=[N:7]/[H:10],91.39830489045359
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:13])[C-:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C+:6]12,116.252722307303
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3](\[C:4]([H:14])([H:15])[H:16])(=[N:5]\[H:17])[H:13].[C:6](=[O:7])([H:9])[H:18]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],32.6590026282608
[C:1]([C:2]([O:3][C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([O+:3]=[C-:4][O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8],76.3193202319917
[C:1]([C-:2]([N+:4]([C:5]([H:15])([H:16])[H:17])=[C:6]([O:7][C:3]([H:12])([H:13])[H:14])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10],27.501449064363413
[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11]>>[O-:1][C:2]1=[C:3]([H:8])[N+:4]2([H:7])[C:5]([H:9])([H:10])[C@@:6]12[H:11],72.1873772201702
[C:1](=[C:2]1[O:3][C@:5]([O:6][H:7])([H:12])[C:4]1([H:10])[H:11])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],39.630788068859104
[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[O:7])[H:19])([H:17])[H:20])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][H:21]>>[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],78.29048587925999
[N:1](=[C:5](/[N-:4][N+:3]#[C:2][H:7])[H:8])\[H:6]>>[n:1]1([H:6])[c:2]([H:7])[n:3][n:4][c:5]1[H:8],6.333255978051405
[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])/[C:5]1=[N:6]/[H:8]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],80.9677835905068
[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:3]1=[C:4]=[C:5]([O:6][H:14])[H:12].[H:9][H:13]>>[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],52.8500407899278
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C@:2]([O:3][H:12])([H:11])[C@:4]([C:5]([H:14])([H:15])[H:16])([H:13])[C:6][N:7]1[H:8],101.910888499696
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1(/[C:6]([C:3]([H:11])([H:12])[H:13])=[N:7]/[H:16])[C:4]([H:14])([H:15])[O:5]1)([H:8])([H:9])[H:10],96.60424002342579
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[O:1]([C:2][C@@:4]([C:3]([H:8])([H:9])[H:10])([C:5](=[O:6])[H:12])[H:11])[H:7],63.94504535246511
[C:1]([N:2]([C:3]#[N:4])[H:10])([H:7])([H:8])[H:9].[C:5]=[N:6][H:11]>>[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],37.764362812172195
[C:1](/[C:2](=[N:3]/[H:10])[C:4]#[N:5])([H:6])([H:8])[H:9].[H:7][H:11]>>[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],86.36949625026679
[C:1]([C:2]([H:7])([H:10])[H:11])([O+:4]=[C-:3][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],52.895017037754094
[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[C+:4]=[C:5]=[N-:6])[H:10])[H:11])([H:7])([H:8])[H:9],70.5908440397691
[C:1]([C@:2]12[N:3]([O:4][H:10])[C@@:6]1([H:11])[C:5]2)([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[O:4][H:10])[C:5]#[C:6][H:11])([H:7])([H:8])[H:9],6.824273702042802
